US08957093B2
Step 1: (S)-tert-Butyl 4′-((5-((1-(3-cyclopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate
A mixture of (S)-tert-butyl 4′-((5-((1-(3-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate (24 mg, 0.038 mmol), cyclopropylboronic acid (7 mg, 0.081 mmol), Palladium(II) acetate (3.5 mg, 0.016 mmol) tricyclohexylphosphine (9 mg, 0.032 mmol) and potassium phosphate, tribasic, (23 mg, 0.11 mmol) in toluene (0.7 mL) and water (0.07 mL) was heated at 100° C. for 1 h in a Biotage Microwave reactor. The solvent was removed; the residue was filtered and purified by preparative HPLC to yield the title compound as a white solid.

reactant | (S)-tert-butyl 4′-((5-((1-(3-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | 0.038 mmol, 24 mg | BrC=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C37H37BrN2O3
reactant | cyclopropylboronic acid | 0.081 mmol, 7 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.07 mL | O | H2O
solvent | toluene | 0.7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium(II) acetate | 0.016 mmol, 3.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-tert-Butyl 4′-((5-((1-(3-cyclopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | C1(CC1)C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C40H42N2O3
